US04564694
In another flask were placed 40 g of 4-pentylcyclohexyl-p-(3-bromopropyl)phenyl ketone and 200 ml of CH3OH and stirred. Thereafter, a sodium methylate-methanol solution prepared by dissolving 3.5 g of Na in 80 ml of absolute CH3OH was added thereto dropwise, and the resulting solution was refluxed. After 6 hours, the reaction solution was concentrated and then poured into water, after which the separated oil layer was extracted with benzene. After the benzene was distilled off, the residue was distilled under reduced pressure to obtain 4-pentylcyclohexyl-p-(3-methoxypropyl)phenyl ketone. The boiling point of this compound was 168°-171° C./0.08 mmHg.

reactant | 4-pentylcyclohexyl-p-(3-bromopropyl)phenyl ketone | 40 g | C(CCCC)C1CCC(CC1)C1=C(C=CC(=C1)CCCBr)C(=O)C1=C(C=C(C=C1)CCCBr)C1CCC(CC1)CCCCC | C41H60Br2O
reactant | sodium methylate methanol | C[O-].[Na+].CO
solvent | CH3OH | 80 ml | CO | CH4O
solvent | CH3OH | 200 ml | CO | CH4O
product | 4-pentylcyclohexyl-p-(3-methoxypropyl)phenyl ketone | C(CCCC)C1CCC(CC1)C1=C(C=CC(=C1)CCCOC)C(=O)C1=C(C=C(C=C1)CCCOC)C1CCC(CC1)CCCCC | C43H66O3
